US05047411
To a solution of 2-acetamido-4-[2-{4-(3-methylthioureido)phenyl}ethyl]pyrimidine (5.8 g) in chloroform (100 ml) was dropwise added a solution of bromine (3.1 g) in chloroform (3 ml) at ambient temperature under stirring and the mixture was stirred at the same temperature for one hour. Further, the resultant mixture was refluxed for 2 hours with stirring. The reaction mixture was evaporated in vacuo and the residue was heated with 10% hydrochloric acid (100 ml) for one hour at 70° to 80° C. The resultant mixture was washed with ethyl acetate. The separated aqueous layer was adjusted to pH 8.0 with aqueous 20% potassium carbonate and extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to column chromatography on silica gel. The column was eluted with a mixture of ethyl acetate and tetrahydrofuran (9:1 V/V), and the fraction containing the desired product was evaporated in vacuo and the crystalline residue was washed with ethyl acetate to give 6-[2-(2-amino-4-pyrimidinyl)ethyl]-2-methylaminobenzothiazole (0.66 g).

reactant | 2-acetamido-4-[2-{4-(3-methylthioureido)phenyl}ethyl]pyrimidine | 5.8 g | C(C)(=O)NC1=NC=CC(=N1)CCC1=CC=C(C=C1)NC(=S)NC | C16H19N5OS
reactant | bromine | 3.1 g | BrBr | Br2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-[2-(2-amino-4-pyrimidinyl)ethyl]-2-methylaminobenzothiazole | 0.66 g | NC1=NC=CC(=N1)CCC1=CC2=C(N=C(S2)NC)C=C1 | C14H15N5S
